US05965738
Synthesis of 5-phenyl-1-triphenylmethyl-1H-tetrazole
To a solution of 5-phenyl-1H-tetrazole (21.9 g) and chlorotriphenylmethane (46 g) in methylene chloride (500 ml) was added triethylamine (16.7 g). The resulting mixture was stirred at room temperature for one hour. The reaction mixture was washed successively with water, 10% aqueous citric acid solution and water and was then dried over anhydrous magnesium sulfate, followed by removal through distillation. The residue so obtained was dispersed in acetone, collected by filtration and then dried, whereby 51.8 g of the title compound was obtained.

reactant | 5-phenyl-1H-tetrazole | 21.9 g | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
reactant | chlorotriphenylmethane | 46 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | triethylamine | 16.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 5-phenyl-1-triphenylmethyl-1H-tetrazole | 51.8 g | C1(=CC=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N4
